US06160064
1-Methyl-2-phenylindene (Ligand 7)
Butyllithium (2.5 M in hexanes, 3.0 mL, 7.6 mmol was added dropwise to a suspension of 2-phenylindene (1.382 g, 7.2 mmol) in THF (50 mL) at -78 C. Upon addition of n-butyllithium the reaction mixture turned a dark orange color and 2-phenylindene dissolved. When the addition of the reagents was complete the solution was allowed to warm to room temperature and stirred for 30 minutes. CH3I (1.3 mL, 22 mmol) was added to this solution dropwise and the light brown reaction mixture was heated to 40° C. and stirred for 24 hours. After that the solvents were removed in vacuo and the light brown solid was recrystallized from EtOH (25 mL) at room temperature affording white needles (1.075 g, 75% yield). 1H NMR (CDCl3, 20° C., 300 MHz): δ 7.52-7.19 (overlapping signals from aromatic protons, 9H), 3.74 (s, 2H), 2.31 (s, 3H). 13C {1H} NMR (CDCl3, 20° C., 75 MHz): δ 147.49 (C), 142.42 (C), 140.31 (C), 137.56 (C), 134.70 (C), 128.37 (CH), 128.24 (CH), 126.63 (CH). 126.40 (CH), 124.74 (CH), 123.32 (CH), 119.11 (CH), 40.96 (CH2), 11.94 (CH3).

reactant | Butyllithium | C(CCC)[Li]
reactant | 2-phenylindene | 7.2 mmol, 1.382 g | C1(=CC=CC=C1)C=1CC2=CC=CC=C2C1 | C15H12
reactant | CH3I | 22 mmol, 1.3 mL | CI | CH3I
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 1-Methyl-2-phenylindene | 1.075 g, 75% yield | CC1C(=CC2=CC=CC=C12)C1=CC=CC=C1 | C16H14
